US07381728B2
N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-hydroxyphenyl]-4-(5-methyl-2-furanyl)benzenesulfonamide (E313)
A solution of N-{5-(cis-3,5-dimethyl-1-piperazinyl)-2-[(phenylmethyl)oxy]phenyl}-4-(5-methyl-2-furanyl)benzenesulfonamide (D43) (100 mg, 0.19 mmol) in ethanol (4 ml) and N,N-dimethylformamide (2.5 ml) was treated with palladiwn hydroxide on carbon (25 mg) and the mixture stirred under an atmosphere of hydrogen for 3.75 h. The mixture was then filtered through celite, washing with ethanol and the filtrate reduced in vacuo and the residue purified by mass directed autoprep HPLC to afford the title compound. MS (ES+) m/e 442 [M+H]+.

reactant | N-{5-(cis-3,5-dimethyl-1-piperazinyl)-2-[(phenylmethyl)oxy]phenyl}-4-(5-methyl-2-furanyl)benzenesulfonamide | 0.19 mmol, 100 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C=1OC(=CC1)C)OCC1=CC=CC=C1 | C30H33N3O4S
reactant | hydroxide | [OH-]
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | N-[5-(cis-3,5-dimethyl-1-piperazinyl)-2-hydroxyphenyl]-4-(5-methyl-2-furanyl)benzenesulfonamide | C[C@@H]1CN(C[C@@H](N1)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=C(C=C1)C=1OC(=CC1)C)O | C23H27N3O4S
